US06107482
4-(3-azidopropoxy)-pyridine-2,6-dicarboxylic acid 43 (FIG. 8)
Diethyl-4-(3-azidopropoxy)-2,6-pyridinedicarboxylate, prepared above, (11.0 g, 34 mmol) was treated with a solution of sodium hydroxide (4.0 g, 0.10 mol) in water (120 mL) at 90-100° C. for 40 min. The reaction mixture was cooled to 10° C. and acidified to pH 1-2 with concentrated hydrochloric acid. The mixture was heated to dissolve the resulting white precipitate. Upon cooling 6.8 g (75 %) of the title compound was obtained as white crystals.

reactant | Diethyl-4-(3-azidopropoxy)-2,6-pyridinedicarboxylate | C(C)OC(=O)C1=NC(=CC(=C1)OCCCN=[N+]=[N-])C(=O)OCC | C14H18N4O5
reactant | sodium hydroxide | 0.10 mol, 4.0 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 120 mL | O | H2O
product | 4-(3-azidopropoxy)-pyridine-2,6-dicarboxylic acid | 6.8 g, 75 % | N(=[N+]=[N-])CCCOC1=CC(=NC(=C1)C(=O)O)C(=O)O | C10H10N4O5
